### PR TITLE
[Merged by Bors] - feat:  Port Data.DList.Instances

### PR DESCRIPTION
**Pull request by casavaca**
---

~~Should build but need a moment for writting comments.~~

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/DList/Basic.lean [hunk 1]
```diff
@@ -50,4 +51,15 @@ theorem DList_lazy {α : Type _} {l : List α} : DList.lazy_ofList l = Std.DList
...
+-- Porting note: port from lean3
+theorem DList.toList_ofList (l : List α) : DList.toList (DList.ofList l) = l := by
+  cases l; rfl; simp only [DList.toList, DList.ofList, List.cons_append, List.append_nil]
+
+-- Porting note: port from lean3
+theorem DList.ofList_toList (l : DList α) : DList.ofList (DList.toList l) = l := by
+   cases' l with app inv
+   simp only [ofList, toList, mk.injEq]
+   funext x
+   rw [(inv x)]
```
Comment (ChrisHughes24) [inline Mathlib/Data/DList/Basic.lean:63]: Can we have some `#align` for these theorems

Comment (casavaca) [reply Mathlib/Data/DList/Basic.lean]: Done

**Comment by ChrisHughes24** [comment]
bors merge
